* PT2.sub
*
.subckt PT2 1 2
R1 0 N001 1
G1 0 N001 1 0 {gain}
G2 0 2 N003 0 1
R2 2 0 1
L1 N003 N002 {L}
C1 N003 0 {C}
R3 N002 N001 {R}
.param L=1
.param C={T**2/L}
.param R={2*d*sqrt(L*C)/C+L}
.end PT2
