* delay.sub
*
.subckt delay Sin Sout
T1 N001 0 N002 0 Td={Td} Z0=50
R2 N002 0 50
G1 0 N001 Sin 0 0.04
R1 N001 0 50
G2 0 Sout N002 0 1
R3 Sout 0 1
.end delay

