* PSpice Model Editor - Version 16.0.0
*$
* TL431
*****************************************************************************
* (C) Copyright 2009 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.                                             
** TI and its licensors and suppliers make no warranties, either expressed                                           
** or implied, with respect to this model, including the warranties of                                                    
** merchantability or fitness for a particular purpose. The model is                                                      
** provided solely on an "as is" basis. The entire risk as to its quality                                                    
** and performance is with the customer                                                                                              
*****************************************************************************
*
* This model was developed for Texas Instruments Incorporated by:
*   AEi Systems, LLC
*   5777 W. Century Blvd., Suite 876
*   Los Angeles, California  90045
*
* This model is subject to change without notice. Neither Texas Instruments Incorporated 
* nor AEi Systems is responsible for updating this model.
* For more information regarding modeling services, model libraries and simulation 
* products, please call AEi Systems at (310) 216-1144, or contact AEi Systems by email: 
* info@AENG.com. Or visit AEi Systems on the web at http://www.AENG.com.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: TL431
* Date: 12/14/2009
* Model Type: Transient and AC  
* Simulator: PSPICE  
* Simulator Version: 16.0.0.p001
* Datasheet: SLVS543J - AUGUST 2004 - REVISED DECEMBER 2005 
*
*****************************************************************************
*
* Updates:
*
* Final 2.00
* Changed encrypted model to unencrypted.
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
.SUBCKT TL431 7 6 11
*             K A FDBK
V1 1 6 2.495
*V1 1 6 1.24
R1 6 2 15.6
C1 2 6 .5U
R2 2 3 100
C2 3 4 .08U
R3 4 6 10
GB1 6 8 VALUE = {IF(V(3,6)< 0 , 1.73*V(3,6) -1U , -1U)}
D1 5 8 DCLAMP
D2 7 8 DCLAMP
V4 5 6 2
G1 6 2 1 11 0.11
.MODEL DCLAMP D (IS=13.5N RS=25M N=1.59
+ CJO=45P VJ=.75 M=.302 TT=50.4N BV=34V IBV=1MA)
.ENDS
*$
