
*   Referenzspannungsquelle TS431
.SUBCKT TS431  K A R 
RC             k  k1  20
Q_Q1         K1 b A NPN_ts431 
G_G1         b A  R A   -0.4m 
I_G1          b A  1m    ; Offset erzeugt 2.5V
D_D1         A b DIODE_ts431 
C_C1         b K1  15p 
.model npn_ts431 npn (BF=2000)
.model diode_ts431 D
.ENDS    TS431
*
*